US07776857B2
Synthesis of 5-Methoxy-N-(4(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)pyridazin-3-amine
A pyrex reaction tube was charged with potassium phosphate (88 mg, 415 μmol), Pd2dba3 (16 mg, 17 mmol), Xantphos (22 mg, 38 mmol), 4-(7-methoxy-1,5-naphthyridin-4-yloxy)benzenamine (92 mg, 346 μmol), 3-chloro-5-methoxypyridazine (50 mg, 346 μmol), and toluene (1 mL). The tube was purged with argon, sealed, and the mixture was heated at 100° C. for 4 h. LCMS showed complete conversion to desired product. The mixture was then concentrated and purified by silica gel chromatography using 0 to 60% (90/10/1 DCM/MeOH/ammonium hydroxide) in DCM. MS: M+H+=376.

reactant | potassium phosphate | 415 μmol, 88 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Xantphos | 38 mmol, 22 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | 4-(7-methoxy-1,5-naphthyridin-4-yloxy)benzenamine | 346 μmol, 92 mg | COC1=CN=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)N | C15H13N3O2
reactant | 3-chloro-5-methoxypyridazine | 346 μmol, 50 mg | ClC=1N=NC=C(C1)OC | C5H5ClN2O
catalyst | Pd2dba3 | 17 mmol, 16 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Methoxy-N-(4(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)pyridazin-3-amine | COC=1C=C(N=NC1)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=CN=C12)OC | C20H17N5O3
